T3P (NET_T4P_S NET_T4CM_S GND GND) nmos
T11 (NET_T11_D VB4 GND GND) nmos
T4CM (NET_T4CM_D NET_T4CM_D NET_T4CM_S GND) nmos
T3CM (NET_T4CM_S VCM GND GND) nmos
T1 (NET_T1_D VB2 NET_T0_D VDD) pmos
T9P (NET_T11_D NET_T11_D NET_T8P_D VDD) pmos
T2 (NET_T4_S IN_PLUS NET_T1_D VDD) pmos
T4P (NET_T5P_S NET_T4CM_D NET_T4P_S GND) nmos
T6 (OUT_MINUS OUT_MINUS NET_T7_D VDD) pmos
T5 (OUT_MINUS VB3 NET_T5_S GND) nmos
T8P (NET_T8P_D NET_T8P_D NET_T9PTOP_D VDD) pmos
T13 (NET_T4CM_D VB2 NET_T12_D VDD) pmos
T9PTOP (NET_T9PTOP_D VB2 NET_T10P_D VDD) pmos
T10P (NET_T10P_D VB1 VDD VDD) pmos
T3 (NET_T4_S NET_T4CM_S GND GND) nmos
T12 (NET_T12_D VB1 VDD VDD) pmos
T5P (OUT_PLUS VB3 NET_T5P_S GND) nmos
T7 (NET_T7_D NET_T7_D NET_T9TOP_D VDD) pmos
T0 (NET_T0_D VB1 VDD VDD) pmos
T10 (NET_T10_D VB1 VDD VDD) pmos
T9 (NET_T11_D NET_T11_D NET_T8_D VDD) pmos
T6P (OUT_PLUS OUT_PLUS NET_T7P_D VDD) pmos
T4 (NET_T5_S NET_T4CM_D NET_T4_S GND) nmos
T7P (NET_T7P_D NET_T7P_D NET_T9PTOP_D VDD) pmos
T8 (NET_T8_D NET_T8_D NET_T9TOP_D VDD) pmos
T9TOP (NET_T9TOP_D VB2 NET_T10_D VDD) pmos
T2P (NET_T4P_S IN_MINUS NET_T1_D VDD) pmos
