M1 OUTB VDD N4 GND nmos
M2 OUTB OUTB INB VDD pmos
M3 N4 EN GND GND nmos
M4 OUTB OUTB VDD VDD pmos
N1 (OUT OUT N4 GND) nmos
M6 OUTB OUTB N4 GND nmos
N2 (OUT VDD N4 GND) nmos
P2 (OUT OUT IN VDD) pmos
P3 (OUT OUT VDD VDD) pmos
M10 OUTB OUT INB VDD pmos
P1 (OUTB OUT IN VDD) pmos
