M1 N5 VBD GND GND nmos
M2 N0 N0 VDD VDD pmos
M3 N10 N10 VDD VDD pmos
M4 N18 VBD GND GND nmos
M5 N16_MID N16_MID VDD VDD pmos
M6 N9 VBD GND GND nmos
M7 VBD N0 VDD VDD pmos
M8 N0 VBN GND GND nmos
M9 N13 VBD GND GND nmos
M10 N10 VBD GND GND nmos
M11 GND GND GND GND nmos
M12 N2 VBD GND GND nmos
M13 GND GND GND GND nmos
M14 N14 VBD GND GND nmos
M15 N20 VBD GND GND nmos
M16 N16_MID VBD GND GND nmos
M17 N17 VBD GND GND nmos
M18 N4 VBD GND GND nmos
M19 N3 VBD GND GND nmos
M20 N20_OUT N10 VDD VDD pmos
M21 N21 VBD GND GND nmos
M22 N11 VBD GND GND nmos
M23 N23 N16_MID VDD VDD pmos
M24 N2 N2 VDD VDD pmos
M25 GND GND GND GND nmos
M26 N16 N2 VDD VDD pmos
M27 N8 VBD GND GND nmos
M28 IOUT VBC GND GND nmos
M29 N29 VBD GND GND nmos
S1 (VBD N21) switch_ideal
S2 (VBD N3) switch_ideal
S3 (VBD N4) switch_ideal
S4 (VBD N20_OUT) switch_ideal
S5 (VBD N18) switch_ideal
S6 (VBD N23) switch_ideal
S7 (VBD N17) switch_ideal
S8 (VBD N20) switch_ideal
S9 (VBD N14) switch_ideal
S10 (VBD N5) switch_ideal
S11 (VBD N29) switch_ideal
S12 (VBD N13) switch_ideal
S13 (VBD N9) switch_ideal
S14 (VBD N8) switch_ideal
S15 (VBD N11) switch_ideal
S16 (VBD N16) switch_ideal
