P3 (N5 N5 N0 VDD) pmos
M2 OUT IN N4 GND nmos
P1 (N0 N0 VDD VDD) pmos
N1 (N5 N5 GND GND) nmos
P2 (N2 N0 VDD VDD) pmos
N2 (N4 N5 GND GND) nmos
M7 OUT IN N2 VDD pmos
