X1 (Vout GND) amplifier
S1 (N1 N1) switch_ideal
S2 (Vin N2) switch_ideal
CF N1 N4
S3 (Vout N4) switch_ideal
CS N1 N2
S4 (Vin N4) switch_ideal
S5 (N1 GND) switch_ideal
S6 (N2 N5) switch_ideal
S7 (N2 N5) switch_ideal
S8 (N2 N5) switch_ideal
