A1 (N7 OUT N9) amplifier
A2 (N10 N9 OUT) amplifier
M1 N4 GND N0 VDD pmos
M2 N9 N14 VEE VDD pmos
M3 N2 N5 VEE VDD pmos
I1 VEE N0
M4 VEE_NEG N1 OUT VDD pmos
M5 N1 N1 N9 VDD pmos
M6 N11 N11 VEE VDD pmos
M7 N4 N4 VEE_NEG GND nmos
M8 N5 N11 VEE VDD pmos
M9 OUT N10 VEE_NEG VDD pmos
M10 VEE N2 OUT GND nmos
M11 N4 VIN N0 VDD pmos
M12 N5 GND N3 GND nmos
M13 N1 N4 VEE_NEG GND nmos
M14 N2 N2 N9 GND nmos
M15 N3 N4 VEE_NEG GND nmos
M16 N4 N4 VEE_NEG GND nmos
M17 N11 GND N9 GND nmos
M18 N9 N4 VEE_NEG GND nmos
M19 N9 N4 VEE_NEG GND nmos
M20 OUT N7 GND GND nmos
C1 N10 OUT
C2 N7 OUT
C3 N3 N9
