I1 VDD N5
T7 (GND GND VDD VDD) pmos
Cc N1 GND
T3d (N2 N6 VDD VDD) pmos
T4a (N1 N2 Vss GND) nmos
T8 (N9 N5 Vss GND) nmos
T3a (N7 N7 VDD VDD) pmos
T3c (N1 N7 VDD VDD) pmos
T1b (N3 Out N9 GND) nmos
T9 (GND N5 Vss GND) nmos
T6 (Out GND VDD VDD) pmos
T5 (Vss N1 Out VDD) pmos
T2a (N7 Out Out GND) nmos
T4b (N2 N2 Vss GND) nmos
T3b (N6 N6 VDD VDD) pmos
T10 (N5 N5 Vss GND) nmos
T2b (N6 Out N3 GND) nmos
T1a (Out Vset N9 GND) nmos
C2 Out N9
