A1 (N5 N2 N9) amplifier
Mn4 N15 N3 N4 GND nmos
A2 (N7 N3 N4) amplifier
Mp13 N11 bias5 VDD VDD pmos
Mn15 N11 N14 N0 GND nmos
Mp9 N2 bias4 VDD VDD pmos
Mp5 N15 LABEL_NET_0 N2 VDD pmos
Mp6 N17 N9 N5 VDD pmos
Mp10 N5 bias4 VDD VDD pmos
Mn3 N17 N7 N6 GND nmos
Mn16 N8 N15 N0 GND nmos
Mn1 N6 Vi_plus N1 GND nmos
Mp14 N8 bias5 VDD VDD pmos
Mnt2 N0 Stage2_CMFB GND GND nmos
Mn2 N4 Vi_minus N1 GND nmos
Mnt1 N1 Stage1_CMFB GND GND nmos
R1 N13 N15
R2 N12 N14
C1 N13 N13
C2 N12 N12
