M1 N4 VIN GND GND nmos
M2 VOUT N2 N4 GND nmos
M3 N1 VBP VDD VDD pmos
M4 VOUT N3 N1 VDD pmos
M5 N2 N4 GND GND nmos
M6 N2 VBP VDD VDD pmos
M7 N3 N1 VDD VDD pmos
M8 N3 VBN GND GND nmos
C1 N1 N2
C2 N4 N3
S1 (N3 N2) switch_ideal
S2 (N2 N3) switch_ideal
