Iref VDD Bias
I2 VDD N6 16Ir
I9 VDD N10 8Ir
I5 VDD N11 4Ir
I7 VDD N3 2Ir
I8 VDD N12 Ir
I6 Bias N8 16Ir
I11 Bias N7 8Ir
I4 Bias N4 4Ir
I10 Bias N5 2Ir
I1 Bias N2 Ir
Sw1 (N6 Bias) switch_ideal
Sw2 (N10 Bias) switch_ideal
Sw3 (N11 Bias) switch_ideal
Sw4 (N3 Bias) switch_ideal
Sw5 (N12 Bias) switch_ideal
Sw6 (N8 VSS) switch_ideal
Sw7 (N7 VSS) switch_ideal
Sw8 (N4 VSS) switch_ideal
Sw9 (N5 VSS) switch_ideal
Sw10 (N2 VSS) switch_ideal
