R1 VCC IFON
R2 VCC IFOP
Q1 IFON LOIN N1_D npn
Q2 IFOP LOIP N1_D npn
Q5 IFON LOQN N2_D npn
Q6 IFOP LOQP N2_D npn
Q3 IFON LOQN N3_D npn
Q4 IFOP LOQP N3_D npn
Q7 IFON LOIN N4_D npn
Q8 IFOP LOIP N4_D npn
N1 (N1_D BBIN N5 GND) nmos
N3 (N2_D BBQP N7 GND) nmos
N2 (N3_D BBIQ N6 GND) nmos
N4 (N4_D BBQN N8 GND) nmos
N5 (N5 VBIAS GND GND) nmos
N6 (N6 VBIAS GND GND) nmos
N7 (N7 VBIAS GND GND) nmos
N8 (N8 VBIAS GND GND) nmos
R3 N5 N6
R4 N7 N8
