M1 N0 N1 VDD VDD pmos
M2 N1 N0 VDD VDD pmos
P1 (SENSE PRE_bar VDD VDD) pmos
M4 N1 N0 GND GND nmos
M5 N0 N1 GND GND nmos
N1 (BL PRE VDD VDD) pmos
P0 (OUT SENSE VDD VDD) pmos
N0 (OUT SENSE GND GND) nmos
M9 BL VDD N1 GND nmos
N2 (SENSE VDD BL GND) nmos
