Iss N0 GND
N1 (Vout_plus Vin_plus N0 GND) nmos
P2 (Vout_minus Vbias VDD VDD) pmos
P1 (Vout_plus Vbias VDD VDD) pmos
N2 (Vout_minus Vin_minus N0 GND) nmos
