I1 VDD N0
T2 (N4 N4 VDD VDD) pmos
T8 (clk N1 GND GND) nmos
T3 (N1 N4 VDD VDD) pmos
T7 (clk N1 VDD VDD) pmos
T4 (N4 clk_inN N3 GND) nmos
T1 (N0 N0 GND GND) nmos
T6 (N3 N0 GND GND) nmos
T5 (N1 clk_inP N3 GND) nmos
