T3 (V_C Iref_n N11 GND) nmos
T11 (IF N9 N8 GND) nmos
T6 (N3 V_C GND GND) nmos
T8 (N9 Iref_n N12 GND) nmos
T5 (N3 Iref_p V_PLUS VDD) pmos
T12 (N8 IF_enable V_MINUS GND) nmos
T7 (N9 V_C GND VDD) pmos
T13 (IF IF_enable V_PLUS VDD) pmos
T9 (N12 IF_enable V_MINUS GND) nmos
T10 (IF N3 V_PLUS VDD) pmos
T1 (N13 IF V_PLUS VDD) pmos
T2 (V_C Iref_p N13 VDD) pmos
T4 (N11 IF V_MINUS GND) nmos
C V_C V_MINUS
