M1 N0 N0 GND GND nmos
M2 N0 VAC2 VDC VDD pmos
A1 (N0 GND) amplifier
M3 N0 N2 VDC VDD pmos
M4 N0 N0 GND GND nmos
A2 (VDC VAC1) amplifier
A3 (N0 GND) amplifier
C1 N1 GND
S1 (N0 N1) switch_ideal
S2 (N2 VDC) switch_ideal
C2 N1 VDC
S3 (VDC N2) switch_ideal
