P1 (P1 CK VDD VDD) pmos
P2 (P2 CK VDD VDD) pmos
P4 (OUT_BAR CK_BAR P1 VDD) pmos
P3 (OUT CK_BAR P2 VDD) pmos
M4 P1 IN_L1 N_L_MID GND nmos
M1 N_L_MID IN_L2 N_TAIL GND nmos
M9 P2 IN_R1 N_TAIL GND nmos
M2 P2 IN_R2 N_TAIL GND nmos
M3 N_TAIL N_C GND GND nmos
M6 N_C N_C GND GND nmos
C1 CK N_C
